US06063778
Synthesis of 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-(2-carboxyprop-2-oxyimino)acetamido]-3-[(E)-3-[(4-methylthiazol-5-yl)-methyldimethylammonio]-1-propen-1-yl]3-cephem-4-carboxylate
p-methoxybenzyl 7β-[(Z)-2-(2-carboxyprop-2-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[(Z)-3-chloro-1-propen-1-yl]3-cephem-4-carboxylate(1.5 g), sodium iodide (0.75 g) and 5-dimethylam-inomethyl-4-methylthiazole(0.31 g) were reacted in the same manner as described in Example 1 to obtain the target product(180 mg).

reactant | p-methoxybenzyl 7β-[(Z)-2-(2-carboxyprop-2-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[(Z)-3-chloro-1-propen-1-yl]3-cephem-4-carboxylate | 1.5 g | C(=O)(O)C(C)(C)O\N=C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)\C=C/CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H42ClN5O8S2
reactant | sodium iodide | 0.75 g | [I-].[Na+]
reactant | 5-dimethylam-inomethyl-4-methylthiazole | 0.31 g | CN(C)CC1=C(N=CS1)C | C7H12N2S
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-(2-carboxyprop-2-oxyimino)acetamido]-3-[(E)-3-[(4-methylthiazol-5-yl)-methyldimethylammonio]-1-propen-1-yl]3-cephem-4-carboxylate | 180 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)\C=C\C[N+](CC2=C(N=CS2)C)(C)C)C(=O)[O-])C1=O)=N/OC(C)(C)C(=O)O | C26H31N7O7S3
